US07157465B2
2-Butoxy-9-(5,6-dichloro-3-pyridylmethyl)-8-hydroxyadenine
Concentrated hydrochloric acid (4 ml) was added to a butanol suspension (4 ml) comprising 2-n-butoxy-8-bromo-9-(5,6-dichloro-3-pyridylmethyl)-8-hydroxyadenine (150 mg, 0.34 mmol) obtained in the same manner as in Reference Example 2, and the resultant was allowed to react at 70° C. for 9 hours. The reaction solution was concentrated under reduced pressure, water (30 ml) was added to the residue under ice cooling, and the solution was neutralized with an aqueous solution of 1N sodium hydroxide. The precipitated solid was collected by filtration, crude crystal was purified by silica gel column chromatography (methylene chloride:methanol=25:1), and 45 mg of the title compound was obtained as a white powdery crystal (yield: 35%).

reactant | hydrochloric acid | 4 ml | Cl | ClH
reactant | 2-n-butoxy-8-bromo-9-(5,6-dichloro-3-pyridylmethyl)-8-hydroxyadenine | 0.34 mmol, 150 mg | C(CCC)OC1=NC(=C2NC(N(C2=N1)CC=1C=NC(=C(C1)Cl)Cl)(O)Br)N | C15H17BrCl2N6O2
solvent | butanol | 4 ml | C(CCC)O | C4H10O
product | 2-Butoxy-9-(5,6-dichloro-3-pyridylmethyl)-8-hydroxyadenine | 45 mg | C(CCC)OC1=NC(=C2N=C(N(C2=N1)CC=1C=NC(=C(C1)Cl)Cl)O)N | C15H16Cl2N6O2
